US04368156
p-Nitrobenzyl 3-methyl-2-(2-oxo-4-iodo-3-phenoxyacetamido-1-azetidinyl)-3-butenoate
A solution of p-nitrobenzyl 3-methyl-2-(2-oxo-4-sulfino-3-phenoxyacetamido-1-azetidinyl)-3-butenoate in methylene chloride was cooled to 0° C. and one molar equivalent of N-iodosuccinimide was added with stirring. After 5 minutes the reaction mixture was washed with brine, dried and evaporated. The product obtained as a solid residue was shown by its nmr spectrum to contain about a 2:1 ratio of cis-isomer to trans-isomer contaminated with a trace of oxazolineazetidinone.

reactant | p-nitrobenzyl 3-methyl-2-(2-oxo-4-sulfino-3-phenoxyacetamido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1S(=O)O)NC(COC1=CC=CC=C1)=O)=O)=C | C23H23N3O9S
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 3-methyl-2-(2-oxo-4-iodo-3-phenoxyacetamido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1I)NC(COC1=CC=CC=C1)=O)=O)=C | C23H22IN3O7
